US07176242B2
3-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}imidazo[1,2-a]pyridine-6-carboxamide
In the same manner as for N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylpyrimidine-4-carboxamide {EXAMPLE S-SP-235}, Step 3, 3-butylimidazo[1,2-a]pyridine-6-carboxylic acid (0.16 g) was converted to 0.30 g of the title compound.

reactant | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylpyrimidine-4-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=NC(=NC(=C2)C)N(CCC)CCC)C=C(C1)F | C31H41F2N5O2
reactant | 3-butylimidazo[1,2-a]pyridine-6-carboxylic acid | 0.16 g | C(CCC)C1=CN=C2N1C=C(C=C2)C(=O)O | C12H14N2O2
product | 3-butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}imidazo[1,2-a]pyridine-6-carboxamide | 0.30 g | C(CCC)C1=CN=C2N1C=C(C=C2)C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F | C31H36F2N4O2
